US07842688B2
b) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazol-4-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 2.1 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 1.81 g of 4-chloromethyl-2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazole are reacted. The title compound is obtained as a yellowish oil. Rf=0.37 (3:1 EtOAc-heptane); Rt=6.04.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 2.1 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 4-chloromethyl-2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazole | 1.81 g | ClCC1=CC=CC=2N(C(=NC21)CCCOC)COCC[Si](C)(C)C | C18H29ClN2O2Si
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazol-4-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=CC=3N(C(=NC32)CCCOC)COCC[Si](C)(C)C)C=CC=C1 | C45H65N3O8Si
